US09108936B2
To a solution of 4-bromo-2-methoxy-6-methyl-benzonitrile (2.8 g, 12.38 mmol) in tetrahydrofuran (24.8 ml) is added diisobutylaluminium hydride (1.2 M in toluene) (24.8 ml, 29.7 mmol) at −78° C. The reaction mixture is slowly warmed to RT and stirred at RT for 18 h. The reaction is quenched with 1 M hydrochloric acid at 0° C. The resulting mixture is stirred at RT for 1 h and extracted with ethyl acetate (3×50 ml). The combined organic layers are washed with water (40 ml), dried over sodium sulfate and evaporated. The crude product is purified by column chromatography (silica gel, 1.5% ethyl acetate/hexane) yielding 4-bromo-2-methoxy-6-methyl-benzaldehyde (1.25 g, 5.45 mmol, 44%).

reactant | 4-bromo-2-methoxy-6-methyl-benzonitrile | 12.38 mmol, 2.8 g | BrC1=CC(=C(C#N)C(=C1)C)OC | C9H8BrNO
reactant | diisobutylaluminium hydride | 29.7 mmol, 1.2 M, 24.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tetrahydrofuran | 24.8 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-methoxy-6-methyl-benzaldehyde | 5.45 mmol, 1.25 g, 44% | BrC1=CC(=C(C=O)C(=C1)C)OC | C9H9BrO2
